US08097628B2
(i) 1,1-Dimethylethyl {1-[(3,8-dioxo-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylen-2-yl)methyl]-4-piperidinyl}carbamate
Crude (3,8-dioxo-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylen-2-yl)methyl methanesulfonate (6.950 g, 23.38 mmol) was dissolved in dry CH3CN (200 ml) and the mixture was treated with pyridine (7.55 ml, 94.0 mmol) followed by 1,1-dimethylethyl 4-piperidinylcarbamate (10.30 g, 51.4 mmol). The mixture was stirred at reflux under argon for 3 h then at 50° C. over the weekend. The mixture was then stirred at 90° C. for 2 h, then the volatiles were removed under reduced pressure and the residue was partitioned between DCM (600 ml) and water (100 ml). The organic phase was separated and the aqueous phase was extracted with DCM (2×200 ml). The combined organic extracts were washed with water (2×100 ml) dried over anhydrous Na2SO4, filtered and evaporated under reduced pressure to give a dark tan solid; this was taken up in a minimum of 5% MeOH in DCM and applied chromatographed, eluting with 0-10% MeOH in DCM. Appropriate fractions were combined and evaporated under reduced pressure to give the title compound as an amorphous pale tan solid (5.444 g, 57%).

reactant | (3,8-dioxo-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylen-2-yl)methyl methanesulfonate | 23.38 mmol, 6.950 g | CS(=O)(=O)OCC1CN2C(C=CC=3N=CC(N1C23)=O)=O | C11H11N3O5S
reactant | pyridine | 94.0 mmol, 7.55 ml | N1=CC=CC=C1 | C5H5N
reactant | 1,1-dimethylethyl 4-piperidinylcarbamate | 51.4 mmol, 10.30 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | MeOH | CO | CH4O
solvent | CH3CN | 200 ml | CC#N | C2H3N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1,1-Dimethylethyl {1-[(3,8-dioxo-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylen-2-yl)methyl]-4-piperidinyl}carbamate | 5.444 g, 57% | O=C1N2C(CN3C(C=CC(N=C1)=C32)=O)CN3CCC(CC3)NC(OC(C)(C)C)=O | C20H27N5O4
